US06177454B1
1.14 g of ethyl 2-(1-methylbenzimidazol-2-yl)acetate and 970 mg of 4-aminobenzylcyanide were subjected to a condensation reaction to obtain 1.19 g of 4′-cyanomethyl-2-(1-methylbenzimidazol-2-yl)acetanilide.

reactant | ethyl 2-(1-methylbenzimidazol-2-yl)acetate | 1.14 g | CN1C(=NC2=C1C=CC=C2)CC(=O)OCC | C12H14N2O2
reactant | 4-aminobenzylcyanide | 970 mg | NC1=CC=C(CC#N)C=C1 | C8H8N2
product | 4′-cyanomethyl-2-(1-methylbenzimidazol-2-yl)acetanilide | 1.19 g | C(#N)CC1=CC=C(NC(CC2=NC3=C(N2C)C=CC=C3)=O)C=C1 | C18H16N4O
